US07211572B2
To a solution of methyl 3-benzyloxy-5-bromo-4-oxo-4H-pyran-2-carboxylate (2.3 g) in dioxane (25 ml) were added tetrakis(triphenylphosphine)palladium(0) (1.57 g) and (2-thiazolyl)tributyltin (5.08 g) under an argon stream, and the mixture was stirred at 100° C. for 1.5 hr. The obtained reaction mixture was concentrated, and subsequently purified by silica gel column chromatography (ethyl acetate:hexane=1:4–1:2) to give methyl 3-benzyloxy-4-oxo-5-(thiazol-2-yl)-4H-pyran-2-carboxylate (1.47 g).

reactant | methyl 3-benzyloxy-5-bromo-4-oxo-4H-pyran-2-carboxylate | 2.3 g | C(C1=CC=CC=C1)OC1=C(OC=C(C1=O)Br)C(=O)OC | C14H11BrO5
reactant | (2-thiazolyl)tributyltin | 5.08 g | S1C(=NC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.57 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-benzyloxy-4-oxo-5-(thiazol-2-yl)-4H-pyran-2-carboxylate | 1.47 g | C(C1=CC=CC=C1)OC1=C(OC=C(C1=O)C=1SC=CN1)C(=O)OC | C17H13NO5S
